US04072685
A mixture of 3.3 g of N-(β-phenylethyl)-3-(3',4'-dimethoxyphenyl)-piperidine and 33 ml of 66% hydrobromic acid was refluxed for an hour and was then distilled to dryness under reduced pressure. The residue was taken up in a water-methylene chloride mixture and was made alkaline with an aqueous solution saturated with sodium bicarbonate. The organic phase was decanted and the aqueous phase was extracted with methylene chloride. The combined organic phases were washed with water, dried over magnesium sulfate and distilled to dryness under reduced pressure to obtain 2.67 g of N-(β-phenylethyl)-3-(3',4'-dihydroxyphenyl)-piperidine.

reactant | N-(β-phenylethyl)-3-(3',4'-dimethoxyphenyl)-piperidine | 3.3 g | C1(=CC=CC=C1)CCN1CC(CCC1)C1=CC(=C(C=C1)OC)OC | C21H27NO2
reactant | hydrobromic acid | 33 ml | Br | BrH
product | N-(β-phenylethyl)-3-(3',4'-dihydroxyphenyl)-piperidine | 2.67 g | C1(=CC=CC=C1)CCN1CC(CCC1)C1=CC(=C(C=C1)O)O | C19H23NO2
